US07732477B2
Methyl6-cyano-1-benzothiophene-2-carboxylate
2.5 g (15.1 mmol) of 2-chloro-3-cyanobenzaldehyde are reacted according to the general procedure with 0.90 g (22.7 mmol) of sodium hydride (60% pure) and 1.76 g (16.6 mmol) of methyl mercaptoacetate. The resulting reaction product is initially purified by silica gel column chromatography (mobile phase: dichloromethane/methanol 100:1) and then dissolved in 30 ml of pyridine, and 650 μl (8.4 mmol) of methanesulfonyl chloride are added. The mixture is stirred at 80° C. for 2 h. After cooling, ethyl acetate is added and the mixture is washed twice with 1N hydrochloric acid and once with saturated sodium chloride solution, dried over sodium sulfate, concentrated and dried under high vacuum. This gives 1.63 g (49.9% of theory) of the title compound.

reactant | 2-chloro-3-cyanobenzaldehyde | 15.1 mmol, 2.5 g | ClC1=C(C=O)C=CC=C1C#N | C8H4ClNO
reactant | sodium hydride | 22.7 mmol, 0.90 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 16.6 mmol, 1.76 g | SCC(=O)OC | C3H6O2S
reactant | methanesulfonyl chloride | 8.4 mmol, 650 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl6-cyano-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC(=C2)C#N | C11H7NO2S
